US07371743B2
(a) ethyl 4-[(2-chloro-ethoxy)-acetyl-amino]-3-fluoro-benzoate
Prepared analogously to Example 46a from (2-chloro-ethoxy)-acetylchloride and ethyl 4-amino-3-fluoro-benzoate with TEA in THF.

reactant | (2-chloro-ethoxy)-acetylchloride | ClCCOCC(=O)Cl | C4H6Cl2O2
reactant | ethyl 4-amino-3-fluoro-benzoate | NC1=C(C=C(C(=O)OCC)C=C1)F | C9H10FNO2
reactant | THF | C1CCOC1 | C4H8O
product | ethyl 4-[(2-chloro-ethoxy)-acetyl-amino]-3-fluoro-benzoate | ClCCON(C1=C(C=C(C(=O)OCC)C=C1)F)C(C)=O | C13H15ClFNO4
